US06426424B1
One mole of copper sulfate pentahydrate powder, two moles of L-lysine powder, 10% by weight of corn starch (90% starch content), and 10% rice flour (90% starch content) were dry blended and placed in a bomb calorimeter. The calorimeter was submersed in a water bath maintained at about 70° C. for about 90 minutes. The calorimeter was removed from the water bath and allowed to cool to room temperature. The calorimeter was then opened and the product was allowed to stand overnight. A copper lysine chelate complex was formed having ligand to metal molar ratio of about 2:1 and a copper content of about 9.5% by weight. The particle size of the product was then analyzed on a Ro-Tap screen shaker fitted with 16, 20, 40, 60, 80, and 100 mesh screens. About 16% of the product did not pass through a 20 mesh screen, 49% of the product was between 20-60 mesh, and 35% of the product passed through a 60 mesh screen. The bulk density of a 20-80 mesh cut of the product measured about 0.95 gm/cc.

reactant | copper sulfate pentahydrate | One mole | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
reactant | L-lysine | two moles | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
product | copper lysine | N[C@@H](CCCCN)C(=O)O.[Cu] | InChI=1S/C6H14N2O2.Cu/c7-4-2-1-3-5(8)6(9)10;/h5H,1-4,7-8H2,(H,9,10);/t5-;/m0./s1
